US06995144B2
After suspending 183 mg of 2-(2-methylphenyl)-1-(piperidin-4-yl)ethanone hydrochloride in 3 ml of dichloromethane, 150 mg of 2-tert-butoxyquinoxaline-3-carboxaldehyde and 180 mg of sodium triacetoxyborohydride were added while stirring, and the stirring was continued overnight at room temperature. Aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain 1-[1-(3-tert-butoxy-2-quinoxalinylmethyl)piperidin-4-yl]-2-(2-methylphenyl)ethanone (177 mg, 63% yield).

reactant | 2-(2-methylphenyl)-1-(piperidin-4-yl)ethanone hydrochloride | 183 mg | Cl.CC1=C(C=CC=C1)CC(=O)C1CCNCC1
reactant | 2-tert-butoxyquinoxaline-3-carboxaldehyde | 150 mg | C(C)(C)(C)OC1=NC2=CC=CC=C2N=C1C=O | C13H14N2O2
reactant | sodium triacetoxyborohydride | 180 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(3-tert-butoxy-2-quinoxalinylmethyl)piperidin-4-yl]-2-(2-methylphenyl)ethanone | 177 mg, 63% yield | C(C)(C)(C)OC=1C(=NC2=CC=CC=C2N1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C)=O | C27H33N3O2
